Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Urinary retention 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ year old female with dementia (presumably Alzheimer's, 
fibroids, and hypercholesterolemia presents with 9 days of 
nausea associated with urinary retention.

The patient was diagnosed with a UTI on ___ after her day 
program referred her to her PCP ___ "diarrhea and urinary 
frequency," though her ex-husband (who cares for her) denies 
diarrhea. She was prescribed ciprofloxacin, Bactrim, and
nitrofurantoin on different visits (appears that she failed to 
fill most of these scripts), and it is unclear if she actually 
completed a course of antibiotics. Upon speaking with her son, 
he reports that she has a prescription for nitrofurantoin but he 
is unsure if she has been taking it.

Per family, she has had decreased PO intake, olguira, and 
fatigue over the last week or so as well. The patient was seen 
by her PCP today where labs were concerning for BUN 104 and Cr 
of 17.6. Of note, patient Cr on ___ was reportedly 1.5.

In the ED, exam was notable for a palpable midline pubic mass 
without abdominal tenderness. A CT showed significantly 
distended bladder (approximately 17.5cm in craniocaudal 
dimension) along with mild distention of the bilateral ureters 
and renal collecting systems. There was no evidence of 
obstructing mass/stone. Also noted as a hypodense region 
adjacent to the anterior aspect of the right kidney that is most 
likely related to a distended renal pelvis. Based on the above 
findings, a Foley catheter was placed with drainage of 1200mL of 
dark colored urine.

On arrival to the floor, patient is unable to partake in any 
meaningful interview secondary to her advanced dementia. A brief 
phone call with her son was relatively unrevealing.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI

 
Past Medical History:
Alzheimer's dementia
 
Social History:
___
Family History:
Unable to obtain.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.8  126/86  79   18   98% RA 
GENERAL: Well-appearing female laying in bed. NAD
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Sclera anicteric. 
MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
GI: Abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding
GU: Foley in place
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric
DERM: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM: 
OBJECTIVE:
VITALS: T 98.2 BP 117/72 HR 84 RR 15 O2SAT 99% on RA 
GENERAL: Well-appearing female laying sitting in a chair with
breakfast, comfortable, alert, but not oriented, answers remain
non sequitur 
HEENT: Normocephalic, atraumatic. EOMI grossly. Sclera 
anicteric.
MMM
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: Abdomen soft, nondistended, mild nonfocal lower abdominal
discomfort to palpation, no rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Moving all 4 extremities purposefully, A&Ox1 as above,
oriented only to name, not to time/place, alert
DERM: warm and well perfused
 
Pertinent Results:
ADMISSION LABS 
___ 04:40PM BLOOD WBC-10.0 RBC-5.12 Hgb-11.5 Hct-37.8 
MCV-74* MCH-22.5* MCHC-30.4* RDW-14.6 RDWSD-38.6 Plt ___
___ 04:40PM BLOOD Neuts-75.0* Lymphs-14.9* Monos-7.9 
Eos-1.0 Baso-0.3 Im ___ AbsNeut-7.50* AbsLymp-1.49 
AbsMono-0.79 AbsEos-0.10 AbsBaso-0.03
___ 04:40PM BLOOD Plt ___
___ 04:40PM BLOOD Glucose-106* UreaN-104* Creat-17.6* 
Na-140 K-4.2 Cl-97 HCO3-19* AnGap-24*
___ 04:40PM BLOOD Calcium-9.4 Phos-4.9* Mg-2.6

IMAGING & STUDIES (FROM OUTSIDE HOSPITAL): 
CT A/P w/o contrast
1. Significantly distended bladder extending approximately 17.5 
cm in craniocaudal dimension. Likely associated mild distention 
of the bilateral ureters and renal collecting systems without 
evidence of obstructing mass/stone. 
2. Hypodense region adjacent to the anterior aspect of the RIGHT 
 kidney appearing appears most likely related to a distended 
renal pelvis. This is likely related to the above but should be 
monitored for resolution with renal ultrasound once the bladder 
has been emptied/catheterized 
3. 4 mm nonobstructing RIGHT parapelvic renal calculus

MICROBIOLOGY 

___ 10:40 pm BLOOD CULTURE ___

   Blood Culture, Routine (Pending):    No growth to date. 

___ 9:04 pm BLOOD CULTURE ___ 

   Blood Culture, Routine (Pending):    No growth to date. 

___ 9:48 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 5:46 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH.

DISCHARGE LABS 
___ 07:10AM BLOOD WBC-8.3 RBC-5.16 Hgb-11.3 Hct-38.6 
MCV-75* MCH-21.9* MCHC-29.3* RDW-14.6 RDWSD-38.9 Plt ___
___ 07:10AM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-99 UreaN-9 Creat-0.9 Na-146 K-3.9 
Cl-104 HCO3-30 AnGap-12
___ 07:10AM BLOOD Calcium-9.7 Phos-2.7 Mg-1.9
___ 07:10AM BLOOD
___ 05:50AM BLOOD WBC-9.8 RBC-5.01 Hgb-11.5 Hct-37.9 
MCV-76* MCH-23.0* MCHC-30.3* RDW-14.8 RDWSD-39.8 Plt ___
___ 06:50AM BLOOD WBC-8.0 RBC-5.04 Hgb-11.4 Hct-38.2 
MCV-76* MCH-22.6* MCHC-29.8* RDW-14.7 RDWSD-39.7 Plt ___
___ 05:50AM BLOOD Glucose-95 UreaN-11 Creat-0.9 Na-146 
K-4.5 Cl-106 HCO3-27 AnGap-13
___ 07:20AM BLOOD Glucose-85 UreaN-8 Creat-1.0 Na-145 K-3.8 
Cl-102 HCO3-29 AnGap-14
___ 05:50AM BLOOD Calcium-9.5 Phos-3.8 Mg-2.0
___ 07:20AM BLOOD Calcium-9.5 Phos-2.8 Mg-1.9
 
Brief Hospital Course:
PATIENT SUMMARY 
=================
Ms. ___ is a ___ with advanced Alzheimer's 
dementia, recently resolved UTI, and fibroids who presents with 
___ and hematuria, likely secondary to acute urinary retention 
now decompressed with a foley and normalized Cr. 

ACUTE ISSUES
=============
# Hematuria 
The patient presented with potentially up to several days of 
acute urinary retention, which was relieved with a foley in the 
ED. On decompression, she was found to have gross hematuria. CT 
scan did not reveal obstructing stones or masses. The 
differential for hematuria includes malignancy versus infection 
versus trauma from the foley or prolonged distention. Given the 
UA had minimal WBCs, nitrite was negative, and she was recently 
treated with antibiotics for a UTI (completed course), urinary 
retention is less likely to be due to infection. Trauma from 
foley insertion is also unlikely to cause such impressive 
hematuria. Malignancy is a strong possibility especially in the 
setting of 60 lbs of unintentional weight loss over past ___ 
years. The most likely etiology though is from the trauma of 
prolonged bladder distention. Over the course of her admission, 
her urine became grossly yellow without clots or blood and RBCs 
decreased in the UA.

# Acute urinary retention
As above, the patient presented with likely up to several days 
of acute urinary retention, and she was relieved with a foley. 
The differential for acute urinary retention includes neurogenic 
versus obstruction versus medication side effect. She has not 
had new medications except for antibiotics for her UTI. She had 
no signs of obstruction on CT though there may be an undetected 
bladder malignancy or fibroids that are obstructing bladder 
outflow. She has longstanding advanced dementia, but this alone 
is unlikely to cause acute urinary retention. A voiding trial 
was attempted on ___, but she was unable to spontaneously void, 
and foley was reinserted on ___. However, subsequently she self 
d/ced the foley. A potential plan to pursue BID straight caths 
was initially attempted, however due to family issues with the 
procedure was not felt to be possible even with ___ support. Her 
foley catheter was replaed at discharge with plan for ___ 
management at home. Repeat renal U/S showed evidence of renal 
cyst vs calyceal diverticulum, and thickened bladder (concerning 
for chronic infectoin vs neurogenic bladder), though this should 
be followed up by urology as an outpatient. Further workup with 
outpatient urology will be needed to determine the etiology of 
acute urinary retention, and appointment was made for void trial 
at discharge.

# ___
She presented with a creatinine of 17.6 which downtrended to 4.1 
after bladder decompression and was down to 0.9 at the time of 
discharge, suggesting that ___ was likely from acute urinary 
retention and postrenal in etiology. ___ was resolved at the 
time of discharge. 

# Urinary tract infection
The patient presented with a recently diagnosed UTI and reported 
that she completed a one-week course of antibiotic therapy. Her 
UA on admission was without significant pyuria and nitrite 
negative suggesting that the UTI was completely treated. Two 
urine cultures were with "no growth". Blood culture was no 
growth to date. 

CHRONIC ISSUES:
===============
# Alzheimer's dementia
The patient presented with a longstanding history of dementia. 
She was continued on home donepezil. 

TRANSITIONAL ISSUES: 
====================
Medications started: None

Medications stopped: None

Medications changed: None

**Patient failed voiding trial on ___ and foley was re-inserted 
on ___. This was self d/ced on ___. She was straight cathed 
from ___. Foley was replaced on ___ ___ in anticipation of 
discharge.
Please perform outpatient urology void trial after discharge 
from the hospital.

[ ] Follow up with outpatient urology for further workup of 
acute urinary retention. She should undergo cystoscopy and 
voiding trial.

[ ] The patient was discharged with a foley in place. Plan for 
voiding trial and foley removal with guidance from outpatient 
urology. Patient has been discharged with ___ services so that 
foley can be managed/monitored at home. 

[ ] please consider ongoing discussion with family members about 
her long-term care (and whether or not she may in the future 
require more round-the-clock nursing care and attention.) Please 
work to determine whether she will qualify for additional social 
services and support in her home.

Daughter: ___ ___
Son: ___ ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 5 mg PO QHS 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
 

1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 6 hours as 
needed for pain Disp #*90 Tablet Refills:*0 
2.  Donepezil 5 mg PO QHS  
3.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute urinary retention 
___ (resolved)
history of urinary tract infection (resolved)

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

You came to the hospital because your daughter noticed that you 
had a distended abdomen. 

When you arrived in the emergency department, it was found that 
your bladder was overfilled with urine. Your bladder was emptied 
with a foley catheter. The urine that drained out was initially 
bloody, but this cleared up during the course of your stay. We 
tried taking out the foley catheter, but you did not void after 
we took it out. As a result, the foley catheter was replaced in 
the bladder and you will go home with it in.

Because of your symptoms, the urologists at ___ would like to 
see you for a follow up appointment. Your appointment has been 
scheduled for ___. The urologists will guide you if and 
when the foley catheter can be removed. 

If your foley catheter comes out, please call the visiting 
nurse, the Urologist's office or your PCP's office immediately 
to let them know. 
If the catheter comes out, it will need to be replaced within 
___ hours. You may also come to the ED if you have any issues 
with the catheter. 

Please come to the hospital immediately if you notice more 
bloody drainage from the foley catheter, severe pain, or no 
output from the foley in over 12 hours.

Please continue to take all your medicines and keep your 
appointments. It was a pleasure caring for you at ___ 
___. We wish you the best!

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___